US05496927
To a stirred suspension of L-alanine methyl ester hydrochloride (10.0 g, 71.6 mmol) in methylene chloride (220 ml) under an argon atmosphere was added triethylamine (10.0 ml, 71.6 mmol). Fifteen minutes later, a solution of di-tert-butyl dicarbonate (15.3 g, 70.2 mmol) in methylene chloride (30 ml) was added dropwise. After the addition was complete, the reaction mixture was stirred at room temperature overnight. The reaction mixture was poured into a separatory funnel containing 50 ml water and the layers separated. The organic layer was washed with 0.5N hydrochloric acid (2×50 ml) and brine (50 ml). The organic layer was then dried over magnesium sulfate, filtered and the majority of solvent evaporated using a rotary evaporator. The last traces of solvent were removed under high vacuum to give Boc-L-alanine methyl ester (14.27 g, 70.2 mmol).

reactant | L-alanine methyl ester hydrochloride | 71.6 mmol, 10.0 g | Cl.COC([C@@H](N)C)=O
reactant | triethylamine | 71.6 mmol, 10.0 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 70.2 mmol, 15.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 50 ml | O | H2O
solvent | methylene chloride | 220 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | Boc-L-alanine methyl ester | 70.2 mmol, 14.27 g | COC([C@@H](NC(=O)OC(C)(C)C)C)=O | C9H17NO4
